US04591272
In order to test and evaluate the equipment and methods of the present invention, pre-coated 10 cm×10 cm HPTLC plates (Whatman) and test compounds α-ionone, phenanthrenequinone and 1,2-naphthaquinone (Aldrich) were obtained. The test compounds were initially diluted with acetone to about 10 mg/ml and stock solutions stored below 4° C. The stock solutions were further diluted with acetone just before use. Ceric sulfate prepared by adding 42 g of (NH4)4Ce(SO4)4 and 56 ml of conc. H2SO4 in 1 liter of distilled water was the chromogenic reagent.

reactant | α-ionone | CC1=CCCC(C1/C=C/C(=O)C)(C)C | C13H20O
reactant | phenanthrenequinone | C1(C(C=CC=2C3=CC=CC=C3C=CC12)=O)=O | C14H8O2
product | 1,2-naphthaquinone | C1=CC=C2C(=C1)C=CC(=O)C2=O | C10H6O2
